US06153768
Synthesis of (3RS,4RS)-4-[3-(4-iodobutyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran
(3RS,4RS)-4-[3-(4-Chlorobutyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran (300 mg, 0.57 mmol) and sodium iodide (260 mg, 1.73 mmol) were dissolved in methyl ethyl ketone (30 ml) and then refluxed for 12 hours. The reaction mixture was cooled to room temperature and then water was added thereto. The reaction solution was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to remove the organic solvent. The concentrate was separated by column chromatography (n-hexane:ethyl acetate=4:1) to obtain 340 mg (yield: 97%) of the title compound as a colorless oil.

reactant | (3RS,4RS)-4-[3-(4-Chlorobutyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran | 0.57 mmol, 300 mg | ClCCCCOC=1C=C(C=CC1)C1C(COC2=C1C=CC(=C2)OCOC)(C)C2=CC=C(C=C2)OCOC | C30H35ClO6
reactant | sodium iodide | 1.73 mmol, 260 mg | [I-].[Na+]
reactant | water | O | H2O
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | (3RS,4RS)-4-[3-(4-iodobutyloxy)phenyl]-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran | 340 mg, yield: 97% | ICCCCOC=1C=C(C=CC1)C1C(COC2=C1C=CC(=C2)OCOC)(C)C2=CC=C(C=C2)OCOC | C30H35IO6
